US05403851
A solution of 4.87 g (30 mmol) of carbonyldiimidazole and 3.43 g (30 mmol) of cyclohexylmethanol was stirred, under nitrogen and at room temperature, for 2-4 hours or the time until the TLC (silica gel; hexane-ethylacetate, 4:1) analysis indicated a complete disappearance of cyclohexylmethanol in the mixture. To this reaction mixture, a solution of 4-fluorophenylethyl amine (4.18 g, 30 mmol) in methylene chloride (5 mL) was added and stirred overnight. The TLC analysis indicated a complete disappearence of 4-fluorophenylethyl amine. The reaction mixture was extracted with 4×50 mL of methylene chloride. The combined extracts were washed with 5% HCl (2×50 mL), water, dried over MgSO4, and concentracted under vacuum. The solid was crystallized from hexane to furnish 5.0 g of N-(Cyclohexylmethyloxycarbonyl)-4-fluorophenylethyl amine (59% yield). mp 44°-45° C.

reactant | carbonyldiimidazole | 30 mmol, 4.87 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | cyclohexylmethanol | 30 mmol, 3.43 g | C1(CCCCC1)CO | C7H14O
reactant | hexane ethylacetate | CCCCCC.C(C)OC(C)=O
reactant | 4-fluorophenylethyl amine | 30 mmol, 4.18 g | FC1=CC=C(C=C1)CCN | C8H10FN
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(Cyclohexylmethyloxycarbonyl)-4-fluorophenylethyl amine | 5.0 g, 59% yield | C1(CCCCC1)COC(=O)NCCC1=CC=C(C=C1)F | C16H22FNO2
